US08202885B2
BB2.2 [3-(7-Methoxy-4-methyl-1H-benzoimidazol-2-yl)-propyl]-methyl-amine
Prepared from 3-methoxy-6-methyl-benzene-1,2-diamine in analogy to the methods described for [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine.

reactant | 3-methoxy-6-methyl-benzene-1,2-diamine | COC1=C(C(=C(C=C1)C)N)N | C8H12N2O
reactant | [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | COC1=CC2=C(NC(=N2)CCCNC)C=C1OC | C13H19N3O2
product | [3-(7-Methoxy-4-methyl-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | COC1=CC=C(C2=C1NC(=N2)CCCNC)C | C13H19N3O
